US06566358B2
(4-Amino-3′-chloro-biphenyl-3-yl)-dicylopropyl-methanol (mp 90-92° C.; MS ((+)ESI) m/z 314 (M+H)+.) was prepared from (4-amino-3′-chloro-biphenyl-3-yl)-cyclopropyl-methanone and cyclopropylmagnesium bromide according to Example 41.

reactant | (4-amino-3′-chloro-biphenyl-3-yl)-cyclopropyl-methanone | NC1=C(C=C(C=C1)C1=CC(=CC=C1)Cl)C(=O)C1CC1 | C16H14ClNO
reactant | cyclopropylmagnesium bromide | C1(CC1)[Mg]Br
product | (4-Amino-3′-chloro-biphenyl-3-yl)-dicylopropyl-methanol | NC1=C(C=C(C=C1)C1=CC(=CC=C1)Cl)C(O)(C1CC1)C1CC1 | C19H20ClNO
